US06444702B1
Synthesis of 1-acetamido-3, 5-dimethyl-7-hydroxyadamantane (3)
Fuming H2SO4 (3 mL) was added to 1-acetamido-3,5-dimethyladamantane (0.2 g) at 0° C. under nitrogen and the reaction mixture was stirred at 0° C. for 1 h. The reaction mixture was poured onto ice (10 g) and the product was extracted with ether (10 mL×4). The combined ether solution was washed with brine (10 mL) and water (10 mL). The solution was dried using sodium sulfate. The solvent was removed in vacuo and, after crystallization on standing, 70 mg of white product was obtained. Pure product was obtained by recrystallization in ether. 1H NMR (DMSO-d6, ppm): 7.30 (brs, 1H, NH), 4.37 (brs, 1 H, OH), 1.72 (s, 3 H, COCH3), 1.65 (s, 2 H), 1.47 (s, 4 H), 1.24-1.14 (dd, 4 H, J=11.2, 23.9 Hz), 0.99 (s, 2 H), 0.82 (s, 6 H, 2×CH3). m.p. 194-195° C. Anal. (C14H23NO2), C. H. N.

reactant | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
reactant | 1-acetamido-3,5-dimethyladamantane | 0.2 g | C(C)(=O)NC12CC3(CC(CC(C1)C3)(C2)C)C | C14H23NO
product | 1-acetamido-3, 5-dimethyl-7-hydroxyadamantane | 70 mg | C(C)(=O)NC12CC3(CC(CC(C1)(C3)O)(C2)C)C | C14H23NO2
